US07435815B2
4-tert-Butyl-N-isoquinolin-5-yl-benzenesulfonamide
prepared by reaction of isoquinolin-5-ylamine with 4-tert-butyl-benzenesulfonyl chloride

reactant | isoquinolin-5-ylamine | C1=NC=CC2=C(C=CC=C12)N | C9H8N2
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-isoquinolin-5-yl-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CN=CC2=CC=C1 | C19H20N2O2S
